US05238602
2.75 g of 1-(methoxymethylene)-4-(1E-pentenyl)cyclohexane (crude product from paragraph a) were heated to boiling for 30 minutes with 100 ml of tetrahydrofuran/2N hydrochloric acid (vol. 4:1) and then stirred overnight at room temperature. The mixture was subsequently treated with 100 ml of water and extracted three times with 100 ml of diethyl ether each time. The extracts were washed with dilute sodium hydrogen carbonate solution and water and the aqueous phases were back-extracted with diethyl ether. The organic phases were dried over magnesium sulphate and evaporated. Low-pressure chromatography of the residual yellowish liquid (2.5 g) on silica gel with petroleum ether and ethyl acetate/petroleum ether (vol. 3:97) gave 1.65 g (76%) of 4-(1E-pentenyl)cyclohexanecarboxaldehyde.

reactant | 1-(methoxymethylene)-4-(1E-pentenyl)cyclohexane | 2.75 g | COC=C1CCC(CC1)\C=C\CCC | C13H22O
reactant | tetrahydrofuran | 2N, 100 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 4-(1E-pentenyl)cyclohexanecarboxaldehyde | 1.65 g, 76% | C(=C\CCC)/C1CCC(CC1)C=O | C12H20O
